US07482455B2
A suspension of 2-(3-tert-Butoxycarbonylamino-propylamino)-7-methoxy-quinoline-3-carboxylic acid (30 mg, 0.08 mmol) in dry 4N HCl/1,4-Dioxane (1 ml) solution was heated at reflux for 5 days. After evaporating the solvent, the residue was recrystallized from methanol and diethyl ether to give 2-(3-Amino-propylamino)-7-methoxy-quinoline-3-carboxylic acid as the white crystal; 19.3 mg (88%). 1H NMR (400 MHz, DMSO-d6) ppm 1.91 (m, 2H), 2.90 (t, 2H, J=7.3 Hz), 3.56 (m, 2H), 3.83 (s, 3H), 6.74 (dd, 1H, J=2.4, 8.6 Hz), 6.88 (d, 1H, J=2.4 Hz), 7.55 (d, 1H, J=8.6 Hz), 8.24 (br, 1H), 8.37 (s, 1H), 10.38 (br, 1H). LC/MS: m/z 276 (M+1)+, 274 (M−1)−.

reactant | 2-(3-tert-Butoxycarbonylamino-propylamino)-7-methoxy-quinoline-3-carboxylic acid | 0.08 mmol, 30 mg | C(C)(C)(C)OC(=O)NCCCNC1=NC2=CC(=CC=C2C=C1C(=O)O)OC | C19H25N3O5
solvent | HCl 1,4-Dioxane | 4N, 1 ml | Cl.O1CCOCC1
product | 2-(3-Amino-propylamino)-7-methoxy-quinoline-3-carboxylic acid | NCCCNC1=NC2=CC(=CC=C2C=C1C(=O)O)OC | C14H17N3O3
